US07465731B2
A mixture of (2R)-2-[(tert-butoxycarbonyl)amino]-4-(methylthio)butanoic acid (4.57 g), cyclohexanemethylamine (2.28 g), HOBt (2.72 g), and EDCI (3.87 g) in DMF (50 mL) was stirred at ambient temperature for 15 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with aqueous ammonium chloride, aqueous sodium hydrogen carbonate, and brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was crystallized from ethyl acetate and hexane to give tert-butyl [(1R)-1-{[(cyclohexylmethyl)amino]carbonyl}-3-(methylthio)propyl]carbamate (5.65 g).

reactant | (2R)-2-[(tert-butoxycarbonyl)amino]-4-(methylthio)butanoic acid | 4.57 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CCSC | C10H19NO4S
reactant | cyclohexanemethylamine | 2.28 g | C1(CCCCC1)CN | C7H15N
reactant | HOBt | 2.72 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 3.87 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | AcOEt-H2O | C(=O)(C)OCC.O
product | tert-butyl [(1R)-1-{[(cyclohexylmethyl)amino]carbonyl}-3-(methylthio)propyl]carbamate | 5.65 g | C1(CCCCC1)CNC(=O)[C@@H](CCSC)NC(OC(C)(C)C)=O | C17H32N2O3S
